US07592373B2
3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[4-(2-diethylaminoethoxy)phenyl]amide
Prepared analogously to Example 2.3.f. from 69 mg (0.33 mmol) of 4-(2-diethylaminoethoxy)phenylamine and 75 mg (0.30 mmol) of (2-chloro-4-trifluoromethylphenyl)propynoic acid. Yield: 70 mg (53% of theory); melting point: 194° C.-197° C.; C22H22ClF3N2O2 (M=438.88); calc.: molecular ion peak (M+H)+: 439/441; found: molecular ion peak (M+H)+: 439/441; Rf value: 0.35 (silica gel, dichloromethane/methanol=(9:1)).

reactant | 4-(2-diethylaminoethoxy)phenylamine | 0.33 mmol, 69 mg | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | 0.30 mmol, 75 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[4-(2-diethylaminoethoxy)phenyl]amide | C(C)N(CCOC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)CC | C22H22ClF3N2O2
